US08066782B2
13 mg (0.04 mol) of (4Z)-6-({4-[bis(2-hydroxyethyl)-amino]phenyl}amino)-4-({4-[bis(2-hydroxyethyl)amino]-phenyl}imino)-3-hydroxy-2-methylcyclohexa-2,5-dien-1-one are added to a solution containing 16 mg of sodium hydrosulfite in 500 μl of methanol and 5 μl of aqueous sodium hydroxide solution. The reaction medium is stirred and the solution is then worked up according to the usual procedure and characterized. 4,6-Bis({4-[bis(2-hydroxyethyl)amino]phenyl}amino)-2-methyl-benzene-1,3-diol is obtained.

reactant | (4Z)-6-({4-[bis(2-hydroxyethyl)-amino]phenyl}amino)-4-({4-[bis(2-hydroxyethyl)amino]-phenyl}imino)-3-hydroxy-2-methylcyclohexa-2,5-dien-1-one | 0.04 mol, 13 mg | OCCN(C1=CC=C(C=C1)NC1=C/C(/C(=C(C1=O)C)O)=N/C1=CC=C(C=C1)N(CCO)CCO)CCO | C27H34N4O6
reactant | sodium hydrosulfite | 16 mg | S(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | methanol | 500 μl | CO | CH4O
solvent | sodium hydroxide | 5 μl | [OH-].[Na+]
product | 4,6-Bis({4-[bis(2-hydroxyethyl)amino]phenyl}amino)-2-methyl-benzene-1,3-diol | OCCN(C1=CC=C(C=C1)NC1=C(C(=C(C(=C1)NC1=CC=C(C=C1)N(CCO)CCO)O)C)O)CCO | C27H36N4O6
